US04929613
7-[3-(Amino)cyclopentyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride.
A mixture of 20.0 g (50 mmol) of 7-[3-(acetylamino) cyclopentyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, ethyl ester was heated in a mixture of 6.0 M hydrochloric acid/ethanol (20 ml/150 ml) at reflux for 8 hours. The solvent was removed in vacuo and the residue slurried in 200 ml of water and filtered. The filtrate was evaporated in vacuo and the residue triturated in ethanol and filtered. The precipitate was washed with ethanol, ether, and dried in vacuo to give 13.6 g of the title compound.

reactant | 7-[3-(acetylamino) cyclopentyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, ethyl ester | 50 mmol, 20.0 g | C(C)(=O)NC1CC(CC1)C1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)OCC)=O)F | C22H25FN2O4
reactant | hydrochloric acid ethanol | 6.0 M, 20 ml | Cl.C(C)O
product | 7-[3-(Amino)cyclopentyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride | 13.6 g | Cl.NC1CC(CC1)C1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | InChI=1S/C18H19FN2O3.ClH/c19-15-6-13-16(7-12(15)9-1-2-10(20)5-9)21(11-3-4-11)8-14(17(13)22)18(23)24;/h6-11H,1-5,20H2,(H,23,24);1H
